US07696229B2
(Boc)2O (23.35 g, 107.11 mmol) was added to a solution of 5-bromo-1H-indole (20 g, 102.04 mmol) in dichloromethane (120 mL). Et3N (10.302 g, 102.00 mmol) was then added, and the resulting solution was stirred at room temperature overnight, then for 6 hours at reflux temperature. The residue was purified by column chromatography using petroleum ether solvent to afford 7.21 g (23%) of tert-butyl 5-bromo-1H-indole-1-carboxylate as a white solid.

reactant | (Boc)2O | 107.11 mmol, 23.35 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-bromo-1H-indole | 102.04 mmol, 20 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | Et3N | 102.00 mmol, 10.302 g | CCN(CC)CC | C6H15N
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | tert-butyl 5-bromo-1H-indole-1-carboxylate | 7.21 g, 23% | BrC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C13H14BrNO2
